US04956359
1-(Diphenylmethyl)-3-(3-methoxyphenoxy)azetidine oxalate [1:1]
A stirred mixture of 48 g (0.2 mole) of 1-diphenylmethyl-3-azetidinol and 22 g (0.22 mole) of triethylamine in 800 ml of toluene was cooled in a water bath while 27.5 g (0.22 mole) of methanesulfonyl chloride was added dropwise. After stirring for 18 hr, the reaction mixture was treated with 200 ml of water to dissolve the triethylamine hydrochloride. The toluene portion was separated and washed with 2×200 ml of water and added to a solution of 24 g (0.6 mole) of sodium hydroxide in 100 ml of water. This mixture was stirred vigorously while 25 g (0.2 mole) of 3-methoxyphenol was added along with 100 ml of tetrabutylammonium bromide and then heated at reflux for 72 hr. After an additional 48 hr of stirring without heat, the basic portion was separated and the toluene portion washed with 3×100 ml of water, dried over magnesium sulfate, then concentrated in vacuo (64 g). Thin layer chromatography (20% ethyl acetate-toluene on silica gel) showed approximately 30% starting azetidinol present. The crude material was placed on a 1200 g silica gel column and eluted with toluene until the material at the solvent front came off the column. The elution solvent was changed to an ethyl acetate-toluene gradient ranging from 2-40% ethyl acetate. Most of the material came off between 5-20% ethyl acetate. A total of nine fractions were shown to be usable by TLC and combined and concentrated in vacuo, to give 49.64 g of oil (71.8%). A portion of this oil was converted to the oxalate salt in acetone/isopropyl ether and recrystallized from methylisobutyl ketone, yielding fine white crystals, m.p. 133°-134° C.

reactant | 1-diphenylmethyl-3-azetidinol | 0.2 mole, 48 g | C1(=CC=CC=C1)C(N1CC(C1)O)C1=CC=CC=C1 | C16H17NO
reactant | triethylamine | 0.22 mole, 22 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.22 mole, 27.5 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine hydrochloride | Cl.C(C)N(CC)CC
reactant | sodium hydroxide | 0.6 mole, 24 g | [OH-].[Na+]
reactant | 3-methoxyphenol | 0.2 mole, 25 g | COC=1C=C(C=CC1)O | C7H8O2
reactant | water | 100 ml | O | H2O
reactant | water | 200 ml | O | H2O
solvent | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium bromide | 100 ml | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-(Diphenylmethyl)-3-(3-methoxyphenoxy)azetidine oxalate | 49.64 g, 71.8% | C(C(=O)O)(=O)O.C1(=CC=CC=C1)C(N1CC(C1)OC1=CC(=CC=C1)OC)C1=CC=CC=C1 | InChI=1S/C23H23NO2.C2H2O4/c1-25-20-13-8-14-21(15-20)26-22-16-24(17-22)23(18-9-4-2-5-10-18)19-11-6-3-7-12-19;3-1(4)2(5)6/h2-15,22-23H,16-17H2,1H3;(H,3,4)(H,5,6)
